US05739336
A mixture of methyl 6-methoxy-1,3-benzodioxole-5-carboxylate (3 g, 14 mmol), prepared as in Example 1, 20% sodium hydroxide (50 mL) and ethanol (25 mL) was heated 1 hour at reflux and then diluted with water, washed with diethyl ether (2×), treated with concentrated hydrochloric acid and cooled in an ice-bath. The solids were collected, washed with water (2×) and dried under vacuum at 70° C. to give 6-methoxy-1,3-benzodioxole-5-carboxylic acid (2.3 g, 12 mmol), m.p. 151° C.

reactant | methyl 6-methoxy-1,3-benzodioxole-5-carboxylate | 14 mmol, 3 g | COC=1C(=CC2=C(OCO2)C1)C(=O)OC | C10H10O5
reactant | sodium hydroxide | 50 mL | [OH-].[Na+]
reactant | ethanol | 25 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | 6-methoxy-1,3-benzodioxole-5-carboxylic acid | 12 mmol, 2.3 g | COC=1C(=CC2=C(OCO2)C1)C(=O)O | C9H8O5
